US09328106B2
Borane dimethyl sulfide complex (2.0 mol/L) in THF (0.91 mL, 1.82 mmol) was added to a solution of 1-methyl-4-nitro-5-(2,3,4,5-tetrahydrooxepin-3-yl)pyrazole (204 mg, 0.91 mmol) in anhydrous THF (8 mL) at 0° C. The mixture was stirred at 0° C. for 15 min then warm to RT for 2 h. 1M NaOH (1.5 mL) and hydrogen peroxide (30 mass % in water) (0.8 mL) were added and the mixture was stirred at RT for 2 h. The reaction was quenched with water and extracted with DCM (2×) and EA (1×). Combined organic layers were washed with brine (10 ml) and concentrated to dryness. The residue was purified via silica gel chromatography (0-100% EtOAc/heptane) to afford 6-(2-methyl-4-nitro-pyrazol-3-yl)oxepan-3-ol (53 mg, 24%).

reactant | 1-methyl-4-nitro-5-(2,3,4,5-tetrahydrooxepin-3-yl)pyrazole | 0.91 mmol, 204 mg | CN1N=CC(=C1C1COC=CCC1)[N+](=O)[O-] | C10H13N3O3
reactant | NaOH | 1M, 1.5 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 0.8 mL | OO | H2O2
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 1.82 mmol, 0.91 mL | C1CCOC1 | C4H8O
product | 6-(2-methyl-4-nitro-pyrazol-3-yl)oxepan-3-ol | 53 mg, 24% | CN1N=CC(=C1C1CCC(COC1)O)[N+](=O)[O-] | C10H15N3O4
